US06337332B1
2-(4-Chloro-phenoxymethyl)-8-methoxy-3-{3-[1-(3-piperidin-1-yl-propyl)-piperidin-4-yl]-propyl}-3H-quinazolin-4-one
A solution of 2-(4-chloro-phenoxymethyl)-8-methoxy-3-(3-piperidin-4-yl-propyl)-3H-quinazolin-4-one (150 mg, 0.31 mmol), N-(3-chloropropyl)-piperidine hydrochloride (222 mg, 0.63 mmol), K2CO3 (87 mg, 0.63 mmol), Kl (105 mg, 0.63 mmol) was heated at 80° C. in THF/H2O (3:1 mixture, 30 mL) for 17 h. After cooling to room temperature, the reaction mixture was diluted with EtOAc. The organic solution was separated and was washed with sat'd aq NaHCO3, sat'd aq NaCl, dried and concentrated. The crude residue was chromatographed on SiO2-gel using EtOAc/NEt3 (10:1) to give the desired product as an oil. API-MS: 567.2 (M+1). 1H NMR (300 MHz, d4-MeOH): d 7.75 (d, 1 H), 7.5 (t,1 H), 7.38 (d, 1 H), 7.3 (d, 2 H), 7.1 (d, 2 H), 5.25 (s, 2 H), 4.1 (m, 2 H), 4.0 (s, 3 H), 2.9 (m), 2.4-2.1 (m), 1.9-1.1 (m).

reactant | 2-(4-chloro-phenoxymethyl)-8-methoxy-3-(3-piperidin-4-yl-propyl)-3H-quinazolin-4-one | 0.31 mmol, 150 mg | ClC1=CC=C(OCC2=NC3=C(C=CC=C3C(N2CCCC2CCNCC2)=O)OC)C=C1 | C24H28ClN3O3
reactant | N-(3-chloropropyl)-piperidine hydrochloride | 0.63 mmol, 222 mg | Cl.ClCCCN1CCCCC1
reactant | K2CO3 | 0.63 mmol, 87 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF H2O | 30 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Chloro-phenoxymethyl)-8-methoxy-3-{3-[1-(3-piperidin-1-yl-propyl)-piperidin-4-yl]-propyl}-3H-quinazolin-4-one | ClC1=CC=C(OCC2=NC3=C(C=CC=C3C(N2CCCC2CCN(CC2)CCCN2CCCCC2)=O)OC)C=C1 | C32H43ClN4O3
